.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-102_freq port1 port2 PARAMS: Cpar=0.714pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=96
+ R2=0.14
+ C= {Cpar}
+ K1=0.0000845
+ K2=0.32
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3302.867554
.ends LPO3010-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-102_imp port1 port2 PARAMS: Cpar=0.553pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=96
+ R2=0.14
+ C= {Cpar}
+ K1=0.0000845
+ K2=0.32
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3302.867554
.ends LPO3010-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-122_freq port1 port2 PARAMS: Cpar=0.763pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=85
+ R2=0.16
+ C= {Cpar}
+ K1=0.00002
+ K2=0.4
+ K3= {Ind}
+ K4=0.036
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3975.75954
.ends LPO3010-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-122_imp port1 port2 PARAMS: Cpar=0.593pF Ind=1.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=85
+ R2=0.16
+ C= {Cpar}
+ K1=0.00002
+ K2=0.4
+ K3= {Ind}
+ K4=0.036
+ K5=0.0000099
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3975.75954
.ends LPO3010-122_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-152_freq port1 port2 PARAMS: Cpar=0.756pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=93
+ R2=0.2
+ C= {Cpar}
+ K1=0.001
+ K2=0.6
+ K3= {Ind}
+ K4=0.044
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5099.659881
.ends LPO3010-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-152_imp port1 port2 PARAMS: Cpar=0.596pF Ind=1.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=93
+ R2=0.2
+ C= {Cpar}
+ K1=0.001
+ K2=0.6
+ K3= {Ind}
+ K4=0.044
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5099.659881
.ends LPO3010-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-222_freq port1 port2 PARAMS: Cpar=0.8pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.265
+ C= {Cpar}
+ K1=0.000371
+ K2=0.8
+ K3= {Ind}
+ K4=0.071
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6815.990082
.ends LPO3010-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-222_imp port1 port2 PARAMS: Cpar=0.618pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=80
+ R2=0.265
+ C= {Cpar}
+ K1=0.000371
+ K2=0.8
+ K3= {Ind}
+ K4=0.071
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6815.990082
.ends LPO3010-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-332_freq port1 port2 PARAMS: Cpar=0.834pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=65
+ R2=0.335
+ C= {Cpar}
+ K1=0.000579
+ K2=1.23
+ K3= {Ind}
+ K4=0.104
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9896.250535
.ends LPO3010-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-332_imp port1 port2 PARAMS: Cpar=0.654pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=65
+ R2=0.335
+ C= {Cpar}
+ K1=0.000579
+ K2=1.23
+ K3= {Ind}
+ K4=0.104
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9896.250535
.ends LPO3010-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-472_freq port1 port2 PARAMS: Cpar=0.978pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.57
+ C= {Cpar}
+ K1=0.000001
+ K2=1.78
+ K3= {Ind}
+ K4=0.126
+ K5=0.00000998
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13375.68968
.ends LPO3010-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-472_imp port1 port2 PARAMS: Cpar=0.805pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.57
+ C= {Cpar}
+ K1=0.000001
+ K2=1.78
+ K3= {Ind}
+ K4=0.126
+ K5=0.00000998
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13375.68968
.ends LPO3010-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-103_freq port1 port2 PARAMS: Cpar=0.804pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=1.15
+ C= {Cpar}
+ K1=0.000001
+ K2=3.55
+ K3= {Ind}
+ K4=0.104
+ K5=0.00000998
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24233.15611
.ends LPO3010-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-103_imp port1 port2 PARAMS: Cpar=0.751pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=1.15
+ C= {Cpar}
+ K1=0.000001
+ K2=3.55
+ K3= {Ind}
+ K4=0.104
+ K5=0.00000998
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=24233.15611
.ends LPO3010-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-153_freq port1 port2 PARAMS: Cpar=1.12pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=38
+ R2=1.57
+ C= {Cpar}
+ K1=0.000001
+ K2=3.3
+ K3= {Ind}
+ K4=0.104
+ K5=0.00000992
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19578.78403
.ends LPO3010-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-153_imp port1 port2 PARAMS: Cpar=1.074pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=38
+ R2=1.57
+ C= {Cpar}
+ K1=0.000001
+ K2=3.3
+ K3= {Ind}
+ K4=0.104
+ K5=0.00000992
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=19578.78403
.ends LPO3010-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPO3010-223_freq port1 port2 PARAMS: Cpar=1.05pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=300
+ R2=2.2
+ C= {Cpar}
+ K1=0.000001
+ K2=3.65
+ K3= {Ind}
+ K4=0.104
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16145.46306
.ends LPO3010-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPO3010-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPO3010-223_imp port1 port2 PARAMS: Cpar=1.021pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=300
+ R2=2.2
+ C= {Cpar}
+ K1=0.000001
+ K2=3.65
+ K3= {Ind}
+ K4=0.104
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16145.46306
.ends LPO3010-223_imp

